US08614327B2
2-Isopropylaniline (13.5 g, 99.85 mmol) was added portionwise to conc. H2SO4 (100 mL) to generate a yellow homogeneous solution. The solution was then cooled to 0° C. and KNO3 (15.2 g, 150.3 mmol) was added portionwise maintaining the internal temperature below 5° C. The reaction was stirred for 2 h and then poured on ice water, then basified with 10% NaOH solution. The aqueous layer was extracted with EtOAc, dried over MgSO4, filtered and concentrated to obtain 2-isopropyl-5-nitroaniline (14.9 g, 83%). 1H NMR (400 MHz, CDCl3) δ 7.60 (dd, J=8.4, 2.2 Hz, 1H), 7.50 (d, J=2.4 Hz, 1H), 7.27-7.21 (m, 1H), 3.96 (s, 2H), 2.98-2.79 (m, 1H), 1.29 (d, J=6.8 Hz, 6H).

reactant | 2-Isopropylaniline | 99.85 mmol, 13.5 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | KNO3 | 150.3 mmol, 15.2 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 2-isopropyl-5-nitroaniline | 14.9 g, 83% | C(C)(C)C1=C(N)C=C(C=C1)[N+](=O)[O-] | C9H12N2O2
